US09107916B2
A. 2-{5-[(4-methoxybenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared in 14% yield from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 4-methoxybenzyl alcohol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 3.81 (3H, s), 5.17 (2H, s), 5.75 (1H, d, J=2.0 Hz), 6.91-6.93 (2H, m), 7.34-7.39 (3H, m), 7.57 (1H, d, J=2.0 Hz), 8.01 (1H, s), 8.69 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H14N4O2, 307. Found, 307.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 4-methoxybenzyl alcohol | COC1=CC=C(CO)C=C1 | C8H10O2
product | 2-{5-[(4-methoxybenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | 14% yield | COC1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C17H14N4O2
